US07781428B2
(3R,3aR)-2-(3-chloro-4-cyanophenyl)-3-(4-fluorophenyl)-N-(2-(methylsulfonyl)ethyl)-3,3a,4,5-tetrahydro-2H-benzo[g]indazole-7-carboxamide
The title compound was prepared from (3R,3aR)-2-(3-chloro-4-cyanophenyl)-3-(4-fluorophenyl)-3,3a,4,5-tetrahydro-2H-benzo[g]indazole-7-carboxylic acid, Example 3, and 2-(methylsulfonyl)ethanamine hydrochloride according to Method F. 1H NMR (400 MHz, DMSO-d6) δ ppm 0.75-0.88 (m, 1H), 1.76-1.84 (m, 1H), 2.84-3.02 (m, 2H), 3.03 (s, 3H), 3.38 (t, J=6.85 Hz, 2H), 3.67 (q, J=6.62 Hz, 2H), 3.96 (ddd, J=13.43, 11.14, 4.97 Hz, 1H), 5.93 (d, J=11.01 Hz, 1H), 6.81-7.44 (m, 6H), 7.66 (d, J=8.86 Hz, 1H), 7.70 (s, 1H), 7.76 (dd, J=8.19, 1.48 Hz, 1H), 8.13 (d, J=8.32 Hz, 1H), 8.78 (t, J=5.64 Hz, 1H); HRMS m/z 551.1343 (M+H).

reactant | (3R,3aR)-2-(3-chloro-4-cyanophenyl)-3-(4-fluorophenyl)-3,3a,4,5-tetrahydro-2H-benzo[g]indazole-7-carboxylic acid | ClC=1C=C(C=CC1C#N)N1N=C2C3=C(CC[C@@H]2[C@@H]1C1=CC=C(C=C1)F)C=C(C=C3)C(=O)O | C25H17ClFN3O2
reactant | 2-(methylsulfonyl)ethanamine hydrochloride | Cl.CS(=O)(=O)CCN
product | (3R,3aR)-2-(3-chloro-4-cyanophenyl)-3-(4-fluorophenyl)-N-(2-(methylsulfonyl)ethyl)-3,3a,4,5-tetrahydro-2H-benzo[g]indazole-7-carboxamide | ClC=1C=C(C=CC1C#N)N1N=C2C3=C(CC[C@@H]2[C@@H]1C1=CC=C(C=C1)F)C=C(C=C3)C(=O)NCCS(=O)(=O)C | C28H24ClFN4O3S
